US09371280B2
In a 20 mL round-bottomed flask, 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoic acid (prepared as described in US20100152190A1, 200 mg, 324 μmol) and HATU (136 mg, 357 μmol) combined with dry tetrahydrofuran (2 mL) to give an off-white suspension at room temperature. It was stirred for 30 min at room temperature. The reaction mixture was slowly added dropwise to a solution of 1,11-diamino-3,6,9-trioxaundecane (312 mg, 304 μL, 1.62 mmol) in dry tetrahydrofuran (1.5 mL) at 0° C. The reaction was done after stirring at room temperature for 20 min. It was filtered and injected into Gilson reverse-phase high-performance liquid chromatography for purification. The desired fractions was converted to free base and lyophilized to afford (2R,3S,4R,5S)-4-(4-chloro-2-fluoro-phenyl)-3-(3-chloro-2-fluoro-phenyl)-4-cyano-5-(2,2-dimethyl-propyl)-pyrrolidine-2-carboxylic acid [4-(2-{2-[2-(2-amino-ethoxy)-ethoxy]-ethoxy}-ethylcarbamoyl)-2-methoxy-phenyl]-amide as a white solid (169 mg, 66% yield). LCMS (ES+) m/z calcd. for C39H47Cl2F2N5O6 [(M+H)+]: 790. found: 790.

reactant | 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoic acid | 324 μmol, 200 mg | ClC=1C(=C(C=CC1)[C@H]1[C@@H](N[C@H]([C@]1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)C(=O)NC1=C(C=C(C(=O)O)C=C1)OC)F | C31H29Cl2F2N3O4
reactant | HATU | 357 μmol, 136 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1,11-diamino-3,6,9-trioxaundecane | 1.62 mmol, 304 μL, 312 mg | NCCOCCOCCOCCN | C8H20N2O3
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | (2R,3S,4R,5S)-4-(4-chloro-2-fluoro-phenyl)-3-(3-chloro-2-fluoro-phenyl)-4-cyano-5-(2,2-dimethyl-propyl)-pyrrolidine-2-carboxylic acid [4-(2-{2-[2-(2-amino-ethoxy)-ethoxy]-ethoxy}-ethylcarbamoyl)-2-methoxy-phenyl]-amide | 169 mg, 66% yield | NCCOCCOCCOCCNC(=O)C1=CC(=C(C=C1)NC(=O)[C@@H]1N[C@H]([C@]([C@H]1C1=C(C(=CC=C1)Cl)F)(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)OC | C39H47Cl2F2N5O6
